* /home/wiley/Projects/geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-sdb netattrib.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
F1 one unconnected_pin-3 <No valid value attribute found>
U300 one 1 unknown
U200 one netattrib unknown
U100 unconnected_pin-2 unconnected_pin-1 one unknown
.end
